US05605914
To a stirred solution of 3-amino-3-(4-methoxyphenyl)propionic acid ethyl ester hydrochloride (1.00 g, 3.85 mmol) and sodium carbonate (0.41 g, 3.85 mmol) in 40 mL of water was added N-carboethoxyphthalimide (0.84 g, 3.85 mmol) in 10 mL of acetonitrile. The reaction was complete in one hour by TLC. The reaction mixture was partially concentrated to remove the acetonitrile. To the resulting mixture was added 0.5 mL of ethyl ether and the mixture was stirred for 1 hour at room temperature. The resulting slurry was filtered and the solid was washed with copious amounts of water. The solid was air-dried overnight to afford 1.02 g (75%) of ethyl 3-phthalimido-3-(4-methoxyphenyl)propionate as a white gum: mp 32° C.; 1H NMR (DMSO-d6, 250 MHz) δ 7.86 (m, 4H), 6.90-7.37 (M, 4H), 5.66 (dd, 1H J1=7.5, J2=2.5), 4.00 (d, 2H, J=7.5), 3.3-3.6 (M, 2H), 1.04 (t, 3H, J=7.5 Hz); 13C (DMSO-d6) δ 170.1, 167.5, 158.7, 134.7, 131.0, 130.5, 128.3, 123.2, 113.88, 60.1, 55.0, 49.5, 35.7, 13.8. Anal. Calcd for C20H19NO5 : C, 67.98; H, 5.42; N, 3.90; Found C, 67.78; H, 5.30; N, 3.92.

reactant | 3-amino-3-(4-methoxyphenyl)propionic acid ethyl ester hydrochloride | 3.85 mmol, 1.00 g | Cl.C(C)OC(CC(C1=CC=C(C=C1)OC)N)=O
reactant | sodium carbonate | 3.85 mmol, 0.41 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-carboethoxyphthalimide | 3.85 mmol, 0.84 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | water | 40 mL | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | ethyl 3-phthalimido-3-(4-methoxyphenyl)propionate | 1.02 g, 75% | C1(C=2C(C(N1C(CC(=O)OCC)C1=CC=C(C=C1)OC)=O)=CC=CC2)=O | C20H19NO5
